US07842696B2
DIPEA (0.091 mL, 0.53 mmol) was added drop wise to furan-2-carboxylic acid (23 mg, 0.21 mmol) in DMF (5 mL). EDCI (84 mg, 0.44 mmol) and HOBT (28 mg, 0.21 mmol) were added consecutively and, after 10 mins, N-(2-Oxo-2-piperazin-1-yl-ethyl)-4-phenoxy-benzamide (60 mg, 0.18 mmol) was added and the resulting mixture was stirred at room temperature overnight. Water was then added, and the resulting solid was filtered under reduced pressure to afford N-{2-[4-(furan-2-carbonyl)-piperazin-1-yl]-2-oxo-ethyl}-4-phenoxy-benzamide in 65% yield. LC-MS purity: 92%, 1H NMR (DMSO-D6): δ 8.5 (t, 1H), 8 (t, 3H), 7.4 (t, 2H), 7.2 (t, 1H), 7 (m, 4H), 6.6 (s, 1H), 4.2 (d, 2H), 3.6 (m, 8H).

reactant | DIPEA | 0.53 mmol, 0.091 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | furan-2-carboxylic acid | 0.21 mmol, 23 mg | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | EDCI | 0.44 mmol, 84 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.21 mmol, 28 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-(2-Oxo-2-piperazin-1-yl-ethyl)-4-phenoxy-benzamide | 0.18 mmol, 60 mg | O=C(CNC(C1=CC=C(C=C1)OC1=CC=CC=C1)=O)N1CCNCC1 | C19H21N3O3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | N-{2-[4-(furan-2-carbonyl)-piperazin-1-yl]-2-oxo-ethyl}-4-phenoxy-benzamide | 65% yield | O1C(=CC=C1)C(=O)N1CCN(CC1)C(CNC(C1=CC=C(C=C1)OC1=CC=CC=C1)=O)=O | C24H23N3O5
